US07202364B2
To a suspension of 6-hydroxy-2-naphthoic acid (5 g, 26.6 mmol) and triethylamine (7.39 mL, 53.1 mmol) in 1,4-dioxane (50 mL) at room temperature, is added DPPA (8.59 mL, 39.9 mmol). After stirring at room temperature for 2.5 hours, ethanol (15.5 mL, 266 mmol) is added and the reaction is heated to reflux temperature overnight. After cooling to room temperature, the mixture is partitioned between EtOAc and water. The organic layer is washed with brine, dried (Na2SO4) and concentrated by rotary evaporator to give an oil. Flash chromatography on silica gel (5% methanol in dichloromethane) gives N-(6-hydroxy-2-naphthyl)carbamic acid ethyl ester as a white solid.

reactant | 6-hydroxy-2-naphthoic acid | 26.6 mmol, 5 g | OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C11H8O3
reactant | triethylamine | 53.1 mmol, 7.39 mL | C(C)N(CC)CC | C6H15N
reactant | DPPA | 39.9 mmol, 8.59 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | ethanol | 266 mmol, 15.5 mL | C(C)O | C2H6O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-(6-hydroxy-2-naphthyl)carbamic acid ethyl ester | C(C)OC(NC1=CC2=CC=C(C=C2C=C1)O)=O | C13H13NO3
